US05846990
A. 2,2,2-Trifluoro-N-(1-methylethyl)ethanamine, hydrochloride
After briskly stirring a mixture of acetone (1.10 ml; 15 mmol), 2,2,2-trifluoroethylamine hydrochloride (1 g; 7.4 mmol), AcOH (2 ml) and 3 Å molecular sieves (5 g) in 30 ml of CH2Cl2 for 2 hour at room temperature, sodium triacetoxyborohydride (3.20 g; 15 mmol) was added. After stirring 18 hours at room temperature, the reaction mixture was filtered through celite and 5 ml of ethereal HCl were added. After removing the volatiles in vacuo the residue was partitioned between ether (100 ml) and 1N NaOH (100 ml). The organic layer was washed with brine (50 ml), dried (MgSO4) and filtered. Ethereal HCl (5 ml) was added and the volatiles were removed in vacuo to afford 855 mg (65%) of the title compound of this step as a white powder. mp (melting point)=80°-90° C.

reactant | acetone | 15 mmol, 1.10 ml | CC(=O)C | C3H6O
reactant | 2,2,2-trifluoroethylamine hydrochloride | 7.4 mmol, 1 g | Cl.FC(CN)(F)F
reactant | AcOH | 2 ml | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 15 mmol, 3.20 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-(1-methylethyl)ethanamine, hydrochloride | 855 mg, 65% | Cl.FC(CNC(C)C)(F)F | InChI=1S/C5H10F3N.ClH/c1-4(2)9-3-5(6,7)8;/h4,9H,3H2,1-2H3;1H
